US04021557
9.0 gm of 5,11-dihydro-5-methyl-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one were dissolved in 200 ml of hot absolute xylene, 2.1 gm of 50% sodium hydride in mineral oil were added to the solution, and the mixture was refluxed for two hours. Then, 5.3 gm of 2-dimethylamino-ethyl chloride were added dropwise, and the resulting mixture was refluxed for 16 hours more. The cooled reaction mixture was taken up with a mixture of ether and water, and the organic phase was separated and extracted with dilute acetic acid. Then, the acidic aqueous extract was made alkaline with concentrated aqueous ammonia, and the precipitated oil was extracted with ether. After evaporation of the ether, the residue was distilled, yielding 5.4 gm of 11-(2-dimethylaminoethyl)-5,11-dihydro-5-methyl-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, b.p. 171°-173° C. at 0.006 mm Hg. After crystallization and recrystallization from petroleum ether, 3.2 gm of the substance, m.p. 109°-110° C., were obtained.

reactant | 5,11-dihydro-5-methyl-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 9.0 gm | CN1C2=C(NC3=C(C1=O)C=CC=C3)N=CC=C2 | C13H11N3O
reactant | sodium hydride | 2.1 gm | [H-].[Na+]
reactant | 2-dimethylamino-ethyl chloride | 5.3 gm | CN(CCCl)C | C4H10ClN
reactant | ether | CCOCC | C4H10O
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 11-(2-dimethylaminoethyl)-5,11-dihydro-5-methyl-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 5.4 gm | CN(CCN1C2=C(N(C(C3=C1C=CC=C3)=O)C)C=CC=N2)C | C17H20N4O
